US04971959
3-(3-Cyclopentoxy-4-methoxyphenyl)-1-propyl azide
To a stirred solution of 0.21 g (0.5 mmol) of 3-(3-cyclopentoxy-4-methoxyphenyl)-1-O-p-toluenesulfonyl-1-propanol in 10 mL of dry N,N-dimethylformamide under a nitrogen atmosphere was added 0.7 g (1.0 mmol) of sodium azide and 0.6 g (0.4 mmol) of potassium iodide in single portions. The mixture was stirred at room temperature for 16 hours at the end of which time the reaction was quenched with excess water and extracted with three, 25 mL portions of chloroform. The combined organic fractions were dried over magnesium sulfate and concentrated under high vacuum to dryness. The resulting oil was purified to an analytically pure oil using liquid chromatography over 50 g of silica gel and eluting with 10% ethyl acetate in hexane followed by drying in vacuo.

reactant | 3-(3-cyclopentoxy-4-methoxyphenyl)-1-O-p-toluenesulfonyl-1-propanol | 0.5 mmol, 0.21 g | C1(CCCC1)OC=1C=C(C=CC1OC)CCCOS(=O)(=O)C1=CC=C(C=C1)C | C22H28O5S
reactant | sodium azide | 1.0 mmol, 0.7 g | [N-]=[N+]=[N-].[Na+]
reactant | potassium iodide | 0.4 mmol, 0.6 g | [I-].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-(3-Cyclopentoxy-4-methoxyphenyl)-1-propyl azide | C1(CCCC1)OC=1C=C(C=CC1OC)CCCN=[N+]=[N-] | C15H21N3O2
